US08703771B2
Step B: (2E)-3-(Dimethylamino)-1-pyrimidin-5-ylprop-2-en-1-one
5-Acetylpyrimidine (1 g, 8.2 mmol) and N,N-dimethylformamide dimethyl acetal (1.3 g, 11 mmol) were dissolved in 20 mL of isopropanol. The solution was stirred at 100° C. for 24 hours, cooled to room temperature, and concentrated under reduced pressure. Ethyl ether was then added to the residue. After being cooled in an ice bath for a couple of hours, the solid was collected by filtration, rinsed with cold ethyl ether, dried in vacuum to obtain 1 g (59% yield) of the title compound. MS (M+1)=178.0.

reactant | 5-Acetylpyrimidine | 8.2 mmol, 1 g | C(C)(=O)C=1C=NC=NC1 | C6H6N2O
reactant | N,N-dimethylformamide dimethyl acetal | 11 mmol, 1.3 g | COC(N(C)C)OC | C5H13NO2
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | (2E)-3-(Dimethylamino)-1-pyrimidin-5-ylprop-2-en-1-one | 1 g, 59% yield | CN(/C=C/C(=O)C=1C=NC=NC1)C | C9H11N3O
